US08183264B2
3-(2-(4-Benzyloxy-benzyl)-2H-tetrazol-5-yl)-pyridin-2,6-diamine
3-(2H-tetrazol-5-yl)-pyridin-2,6-diamine (60 mg) described in Manufacturing Example 7-3, 4-benzyloxybenzyl chloride (79 mg), sodium iodide (51 mg), NaH (14 mg, 60% in oil), and DMF (0.69 mL) were stirred for 10 minutes at 60° C. Water was added to the reaction solution, which was then extracted with ethyl acetate. The organic layer was concentrated and purified by NH silica gel column chromatography (hexane:ethyl acetate=2:1, then ethyl acetate). Ethyl acetate-hexane was added to the residue thus obtained, and the solids were filtered off to obtain the titled compound (26 mg).

reactant | 3-(2H-tetrazol-5-yl)-pyridin-2,6-diamine | 60 mg | N=1NN=NC1C=1C(=NC(=CC1)N)N | C6H7N7
reactant | 4-benzyloxybenzyl chloride | 79 mg | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | sodium iodide | 51 mg | [I-].[Na+]
reactant | NaH | 14 mg | [H-].[Na+]
solvent | Water | O | H2O
solvent | DMF | 0.69 mL | CN(C)C=O | C3H7NO
product | 3-(2-(4-Benzyloxy-benzyl)-2H-tetrazol-5-yl)-pyridin-2,6-diamine | 26 mg | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(N=N2)C=2C(=NC(=CC2)N)N)C=C1 | C20H19N7O
